US06784192B2
1-[(2-Methoxy-3-pyridyl)methyl]-4-[2-[3-(methylsulfonyl)-2-thienyl]ethyl]piperidine
450 mg of 1-[(2-methoxy-3-pyridyl)methyl]-4-[2-[3-(methylsulfonyl)-2-thienyl]-1-ethynyl]piperidine and 250 mg of 10% palladium-carbon powder (water-containing product) were suspended in 10 ml of ethanol. After replacing the atmosphere of a container with hydrogen, the mixture was stirred at room temperature under normal pressure for 8 hours. The reaction solution was filtered, and the filtrate was evaporated, to give the title compound as a yellow oil (quantitatively).

reactant | 1-[(2-methoxy-3-pyridyl)methyl]-4-[2-[3-(methylsulfonyl)-2-thienyl]-1-ethynyl]piperidine | 450 mg | COC1=NC=CC=C1CN1CCC(CC1)C#CC=1SC=CC1S(=O)(=O)C | C19H22N2O3S2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 250 mg | [C].[Pd]
product | 1-[(2-Methoxy-3-pyridyl)methyl]-4-[2-[3-(methylsulfonyl)-2-thienyl]ethyl]piperidine | COC1=NC=CC=C1CN1CCC(CC1)CCC=1SC=CC1S(=O)(=O)C | C19H26N2O3S2
